US09303028B2
Step 1: tert-butyl 3-(3-(3-fluoro-4-(methylcarbamoyl)phenyl)pyrazin-2-yl)azetidinE-1-carboxylate
The compound was prepared analogously to Example 1 by using (3-fluoro-4-(methylcarbamoyl)phenyl)boronic acid (purchased from Combi Blocks) and tert-butyl 3-(3-chloropyrazin-2-yl)azetidine-1-carboxylate. m/z=287 (M+1-100).

reactant | (3-fluoro-4-(methylcarbamoyl)phenyl)boronic acid | FC=1C=C(C=CC1C(NC)=O)B(O)O | C8H9BFNO3
reactant | tert-butyl 3-(3-chloropyrazin-2-yl)azetidine-1-carboxylate | ClC=1C(=NC=CN1)C1CN(C1)C(=O)OC(C)(C)C | C12H16ClN3O2
product | tert-butyl 3-(3-(3-fluoro-4-(methylcarbamoyl)phenyl)pyrazin-2-yl)azetidinE-1-carboxylate | FC=1C=C(C=CC1C(NC)=O)C=1C(=NC=CN1)C1CN(C1)C(=O)OC(C)(C)C | C20H23FN4O3
